US06787544B2
In 4 mL of methanol is suspended 0.19 g of methyl 2-{[(3-hydroxy-2-pyrazinyl)carbonyl]-amino}acetate. The suspension is saturated with ammonia by introducing gaseous ammonia thereinto under ice-cooling for 30 minutes. The resulting mixture is stirred at the same temperature as above for 1 hour and then at ambient temperature for 15 hours. The solvent is distilled off under reduced pressure. The residue thus obtained is dissolved in a mixture of 4 mL of water and 1 mL of methanol. To the resulting solution is added 0.9 mL of 1 mol/L hydrochloric acid. The deposited crystals are collected by filtration to obtain 0.16 g of N2-(2-amino-2-oxoethyl)-3-hydroxy-2-pyrazinecarboxamide.

reactant | methyl 2-{[(3-hydroxy-2-pyrazinyl)carbonyl]-amino}acetate | 0.19 g | OC=1C(=NC=CN1)C(=O)NCC(=O)OC | C8H9N3O4
reactant | ammonia | N | H3N
reactant | hydrochloric acid | 1 mol/L, 0.9 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | N2-(2-amino-2-oxoethyl)-3-hydroxy-2-pyrazinecarboxamide | 0.16 g | NC(CNC(=O)C1=NC=CN=C1O)=O | C7H8N4O3
